US04359475
1-Chloro-4-(4-chlorophenyl)-2-butanone (110 g) was added portionwise over half an hour to a stirred suspension of imidazole (175 g) in dimethylformamide (150 ml) at 0° C. and the mixture stirred overnight at ambient temperature. The resulting solution was poured into wate (1500 ml) with seeding at the first sign of turbidity, and the precipitate filtered off and washed well with water and hexane. Chromatography of the product on silica gel (1 Kg), eluting with 7% methanol in methylene chloride gave 100 g of 1-[4-(4-chlorophenyl) butan-2-on-1-yl]imidazole. The hydrochloride salt from acetone/methanol had a m.p. of 172.5°-174° C.

reactant | 1-Chloro-4-(4-chlorophenyl)-2-butanone | 110 g | ClCC(CCC1=CC=C(C=C1)Cl)=O | C10H10Cl2O
reactant | imidazole | 175 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 1-[4-(4-chlorophenyl) butan-2-on-1-yl]imidazole | 100 g | ClC1=CC=C(C=C1)CCC(CN1C=NC=C1)=O | C13H13ClN2O
